US09290454B2
1,2-di-(1H-imidazol-1-yl)ethane-1,2-dione (130 mg, 0.684 mmol) was added to a stirred, room temperature mixture of tert-butyl 5-(2-(4-fluorophenyl)-6-((hydroxyimino)methyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (200 mg, 0.456 mmol) in toluene (6.00 mL) and 1,2-dichloroethane (2 mL) and the mixture was stirred at 80° C. for 2 h. The mixture was cooled, diluted with ethyl acetate (20 mL), washed with aqueous sodium hydrogen carbonate (1 M, 1×15 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure to give tert-butyl 5-(6-cyano-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (185 mg, 0.440 mmol) as a yellow gum.

reactant | 1,2-di-(1H-imidazol-1-yl)ethane-1,2-dione | 0.684 mmol, 130 mg | N1(C=NC=C1)C(C(=O)N1C=NC=C1)=O | C8H6N4O2
reactant | tert-butyl 5-(2-(4-fluorophenyl)-6-((hydroxyimino)methyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 0.456 mmol, 200 mg | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC(C)(C)C)C=NO)=O | C25H27FN2O4
solvent | toluene | 6.00 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 5-(6-cyano-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 0.440 mmol, 185 mg | C(#N)C=1C=C2C=C(N(C(C2=CC1)=O)C1=CC=C(C=C1)F)CCCCC(=O)OC(C)(C)C | C25H25FN2O3
